US07582718B2
A solution of 7.27 mmol (1.29 g) of palladium (II) dichloride [PdCl2 (II)] in 30 ml of carbon tetrachloride is placed in a flask, and then 0.106 moles (24 g) of 1,1,1,3,3-pentamethoxy-1,3-disilapropane (98%, Korea Institute of Science and Technology (KIST)) is slowly added thereto at 0° C. The reaction is allowed to proceed at this temperature for 4 hours. The reaction mixture is filtered through celite to obtain 3-chloro-1,1,1,3,3-pentamethoxy-1,3-disilapropane.

reactant | 1,1,1,3,3-pentamethoxy-1,3-disilapropane | 0.106 moles, 24 g | CO[Si](C[SiH](OC)OC)(OC)OC | C6H18O5Si2
reactant | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | palladium (II) dichloride | 7.27 mmol, 1.29 g | [Pd](Cl)Cl
product | 3-chloro-1,1,1,3,3-pentamethoxy-1,3-disilapropane | Cl[Si](C[Si](OC)(OC)OC)(OC)OC | C6H17ClO5Si2
